US06951868B2
To a stirred solution of methyl 4-hydroxy-3-vinylbenzoate (410 mg, 2.3 mmol), triphenylphosphine (787 mg, 3.0 mmol), 3-buten-2-ol (260 μL, 3.0 mmol) in THF (15 mL) at 0° C. is added a solution of diethyl azadicarboxylate (472 μL, 3.0 mmol) in THF (5 mL). The mixture is allowed to warm to rt and stir overnight. The mixture is concentrated in vacuo and the residue is purified by chromatography on SiO2. Elution with hexanes-EtOAc (95:5) gives 371 mg (69%) of methyl 3-formyl-4-[(1-methylprop-2-enyl)oxy]benzoate as a clear oil: 1H NMR (400 MHz, CDCl3) δ 8.18, 7.89, 7.08, 6.90, 5.94, 5.86, 5.36-5.30, 4.93, 3.91, 1.51.

reactant | methyl 4-hydroxy-3-vinylbenzoate | 2.3 mmol, 410 mg | OC1=C(C=C(C(=O)OC)C=C1)C=C | C10H10O3
reactant | triphenylphosphine | 3.0 mmol, 787 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-buten-2-ol | 3.0 mmol, 260 μL | CC(C=C)O | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | methyl 3-formyl-4-[(1-methylprop-2-enyl)oxy]benzoate | 371 mg, 69% | C(=O)C=1C=C(C(=O)OC)C=CC1OC(C=C)C | C13H14O4
